US07544679B2
A solution of 70.0 mg (0.19 mmol) 2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid and 31.3 mg (0.21 mmol) 3,3,3-trifluoropropylamine hydrochloride in 3 ml tetrahydrofuran were cooled to 0° C. and 28.2 mg (0.21 mmol) 1-hydroxy-benzotriazole hydrate, 103 μl (0.61 mmol) diisopropylethylamine and 40.1 mg (0.21 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight. Removal of the solvent by distillation and chromatography on silicagel with heptane/ethylacetate (gradient 90:10 to 50:50) yielded 50.0 mg (57%) (R/S)-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-N-(3,3,3-trifluoro-propyl)-malonamide: MS (m/e): 464.0 (M+H)+.

reactant | 2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 0.19 mmol, 70.0 mg | OC(C(=O)O)(CCC)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C20H20N2O5
reactant | 3,3,3-trifluoropropylamine hydrochloride | 0.21 mmol, 31.3 mg | Cl.FC(CCN)(F)F
reactant | 1-hydroxy-benzotriazole hydrate | 0.21 mmol, 28.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.61 mmol, 103 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.21 mmol, 40.1 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (R/S)-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-N-(3,3,3-trifluoro-propyl)-malonamide | 50.0 mg, 57% | OC(C(=O)N(CCC(F)(F)F)[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C(=O)N)CCC | C23H24F3N3O4
